US03974176
5 g of 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile and 10 ml of 96 % sulfuric acid are stirred for 4 hours at room temperature. The batch is added to 50 g of ice, the precipitate is separated by vacuum filtering and washed with water. 5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetamide is obtained with a 99% yield; F 192°-193°.

reactant | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile | 5 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC#N | C17H11Cl2N3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetamide | 99% yield | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(=O)N | C17H13Cl2N3O
